US08754226B2
A flask was charged with (S)-tert-butyl 4-(3-(1H-indazol-5-yloxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (0.300 g, 0.749 mmol), HCl in dioxane (1.87 mL, 7.49 mmol), DCM (10 mL), and methanol (1 mL). The reaction was stirred at ambient temperature for 2 hours. The organic solvents were removed under reduced pressure. The residue was purified using silica gel column chromatography using 50-100% ethyl acetate in hexanes, then 5% ammoniated methanol in DCM, and then 30% ammoniated methanol in ethyl acetate to provide (S)-3-(1H-indazol-5-yloxy)-1-(piperidin-4-yl)pyrrolidin-2-one (0.225 g, 100% yield).

reactant | (S)-tert-butyl 4-(3-(1H-indazol-5-yloxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 0.749 mmol, 0.300 g | N1N=CC2=CC(=CC=C12)O[C@@H]1C(N(CC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C21H28N4O4
reactant | HCl | Cl | ClH
reactant | dioxane | 7.49 mmol, 1.87 mL | O1CCOCC1 | C4H8O2
reactant | methanol | 1 mL | CO | CH4O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-3-(1H-indazol-5-yloxy)-1-(piperidin-4-yl)pyrrolidin-2-one | 0.225 g, 100% yield | N1N=CC2=CC(=CC=C12)O[C@@H]1C(N(CC1)C1CCNCC1)=O | C16H20N4O2
